US06809097B1
Phosphorous oxychloride (6.0 ml) was added to a stirred mixture of 2-acetamido-5-hydroxy-1,8-naphthyridine (2.4 g, 11.8 mmol) and N,N-dimethylaniline (6.0 ml) in toluene (100 ml). The mixture was then heated at reflux for 1 hour. The mixture was allowed to cool, the tolulene was removed by evaporation and the residue was partitioned between methylene chloride and aqueous sodium hydrogen carbonate solution. The organic layer was separated, dried (MgSO4) and the solvent was removed by evaporation to give 2-acetamido-5-chloro-1,8-naphthyridine (470 mg, 18%) as a brown solid.

reactant | Phosphorous oxychloride | 6.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-acetamido-5-hydroxy-1,8-naphthyridine | 11.8 mmol, 2.4 g | C(C)(=O)NC1=NC2=NC=CC(=C2C=C1)O | C10H9N3O2
reactant | N,N-dimethylaniline | 6.0 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetamido-5-chloro-1,8-naphthyridine | 470 mg, 18% | C(C)(=O)NC1=NC2=NC=CC(=C2C=C1)Cl | C10H8ClN3O
